US04743601
8-Chloro-1,2-dihydro-3-methyl-3H-1,4-oxazino[2,3-c]quinoline
A solution of 11 g of 3-bromo-7-chloro-N-(2-hydroxypropyl)-4-quinolinamine in 33 ml of dimethylformamide was stirred and to it was added 4.3 g of potassium t-butoxide. The mixture was stirred at 130°-140° C. for three hours and then allowed to cool to room temperature. The reaction mixture was diluted with water and the organics were extracted into dichloromethane. Washing with water, drying over anhydrous magnesium sulfate and evaporation of solvents resulted in a crude oil which was purified by HPLC using 2:1 hexane/ethyl acetate as the eluent. Recrystallization from acetone yielded 2.5 g of solid with a melting point of 239°-241° C.

reactant | 3-bromo-7-chloro-N-(2-hydroxypropyl)-4-quinolinamine | 11 g | BrC=1C=NC2=CC(=CC=C2C1NCC(C)O)Cl | C12H12BrClN2O
reactant | potassium t-butoxide | 4.3 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 33 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-Chloro-1,2-dihydro-3-methyl-3H-1,4-oxazino[2,3-c]quinoline | 2.5 g | ClC=1C=CC=2C3=C(C=NC2C1)OC(CN3)C | C12H11ClN2O
